US07605176B2
III.1.b: 3-chloro-4-[2-(4-methylpiperidin-1-yl)ethoxy]nitrobenzene
7.80 g (27.8 mmol) of 4-(2-bromoethoxy)-3-chloronitrobenzene (III.1.a) and 10.1 mL (84.0 mmol) of 4-methylpiperidine is dissolved in 100 mL of methylene chloride and stirred for 12 hours at ambient temperature. Then the mixture is filtered through 400 g of aluminum oxide (activity 2-3) with methylene chloride/methanol 49:1 as eluant. Yield: 6.9 g (83% of theory); Rf value: 0.50 (aluminum oxide, petroleum ether/ethyl acetate=3:1); C14H19ClN2O3; EII mass spectrum: m/z=299/301 [M+H]+.

reactant | 4-(2-bromoethoxy)-3-chloronitrobenzene | 27.8 mmol, 7.80 g | BrCCOC1=C(C=C(C=C1)[N+](=O)[O-])Cl | C8H7BrClNO3
reactant | 4-methylpiperidine | 84.0 mmol, 10.1 mL | CC1CCNCC1 | C6H13N
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
product | 3-chloro-4-[2-(4-methylpiperidin-1-yl)ethoxy]nitrobenzene | ClC=1C=C(C=CC1OCCN1CCC(CC1)C)[N+](=O)[O-] | C14H19ClN2O3
